* AD8410 MACROMODEL
* Description: Current Sense Amplifier
* Generic Desc: G=20, BiDir, HighBandwidth
* Developed by: DZ, KF, PB
* 07/25/2018 - Rev.2
* Copyright 2018 by Analog Devices, Inc.
*
*
* BEGIN Notes:
*
* Not Modeled:
*	Temperature
*	PSRR
* Parameters modeled include:
*	Offset Voltage
*	Bias Current vs. Common Mode Voltage
*	DC Transfer Characteristic
*	DC CMRR
*	Gain vs. Frequency
*	CMRR vs. Frequency
*	Spectral Noise
*	Slew Rate
*	Pulse Response
*	Capacitive Loading Effects
*	Common-Mode Step Response
* END Notes
*
************************
.SUBCKT AD8410  -IN GND REF2 VOUT VS REF1 +IN

R1 N012 N011 600E3
R2 N010 N009 30000.6
R3 N018 Vsl+out 30E3
R4 0 N012 1E12
R5 N022 N018 570E3
G1 0 N012 N018 N011 100
R6 N025 N022 60E3
R7 N026 N022 60E3
R9 -IN 0 562E3
R11 +IN 0 562E3
I1 N024 0 110E-6
I2 N019 0 110E-6
V1 P001 0 1.5
V2 P002 0 1.5
D1 P001 N024 D
D2 P002 N019 D
D3 -IN N019 D
D4 +IN N024 D
G2 0 N008 -IN 0 1
R8 N008 0 1
G3 0 Vsl+in +IN 0 1
R10 Vsl+in 0 1
G4 0 N015 VY VOUT 1
R12 0 N015 1E9
C1 N015 0 95E-9
R13 0 VOUT 19
G5 0 VOUT N015 0 52.6315789E-03
C2 VOUT 0 5E-9
D5 N013 N015 D
D6 N015 N014 D
V3 0 N013 100
V4 0 N014 -100
D7 N006 VOUT D
D8 VOUT N007 D
V5 N006 0 0.881
V6 VSx N007 0.880
E1 VSx 0 VS 0 1
E2 N025 0 REF1 0 1
E3 N026 0 REF2 0 1
L1 N010 N011 0.01E-3
D10 VNEG19.3 +IN D
D12 +IN V79p3 D
D13 VNEG19.3 -IN D
D14 -IN V79p3 D
V7 V79p3 0 79.3
V8 0 VNEG19.3 19.3
D15 N020 +IN Ddiff
D16 N021 -IN Ddiff
D17 N020 -IN D
D18 N021 +IN D
R16 N023 0 40E3
V9 P003 0 -5
D19 N023 P003 D
D20 N023 +IN D
R18 N017 0 40E3
V10 P004 0 -5
D21 N017 P004 D
D22 N017 -IN D

* Supply Current

Isupply VS 0 8E-3


* Offset Voltage

Vos N009 N008 200E-6

* Noise

Vn N003 0 0
R15 N003 0 0.01666
H1 N016 N012 Vn1 707.1067812
Vn1 N002 0 0
Vn2 N005 0 0.65
D11 N005 N002 DN
Vn3 N001 0 0
Vn4 N004 0 0.65
D9 N004 N001 DN
H2 N016 VX Vn3 707.1067812


* Common-Mode Step Response

C5 Vsl+out 0 0.001E-7
R17 Vsl+out 0 10E9
GSL2 0 Vsl+out VALUE={LIMIT(1*V(Vsl+in,Vsl+out), .4, -.4)}

* Slew Rate

GSL1 0 VY VALUE={LIMIT(1*V(VX,VY), 0.0087, -0.0087)}
C3 VY 0 1E-9
R14 VY 0 1E9





.model D D(IS=1E-14)
.model	DN	D(IS=6.45E-12 KF=6.34E-016)
.model Ddiff D(IS=1e-14 BV=19.3 )
.ends AD8410

